US07291632B2
Preparation 43. N-(6-Aminopyridin-2-yl)-2,4,6-trifluorobenzamide
Combine 2,4,6-trifluorobenzoyl chloride (3.891 g, 20 mmol), 2,6-diaminopyridine (6.548 g, 60 mmol) and dioxane (25 mL) and stir for 1 hr. at room temperature followed by heating at 40° C. overnight. Dilute the reaction mixture with CH2Cl2 (100 mL), and wash with 0.1N NaOH solution. Extract the aqueous layer three times with CH2Cl2. Combine the organic layers, dry over Na2SO4, filter, and concentrate to a residue. Chromatography on silica gel, eluting with a gradient of 40–50% ethylacetate in hexanes gives the title intermediate (3.95 g, 74%): mass spectrum (ion spray): m/z=267.9 (M+1); 1H NMR (CDCl3, ppm):8.28 (s, br, 1H), 7.66 (d, 1H), 7.52 (t, 1H), 6.78 (m, 2H), 6.31 (d, 1H), 4.36 (s, br, 2H).

reactant | 2,4,6-trifluorobenzoyl chloride | 20 mmol, 3.891 g | FC1=C(C(=O)Cl)C(=CC(=C1)F)F | C7H2ClF3O
reactant | 2,6-diaminopyridine | 60 mmol, 6.548 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(6-Aminopyridin-2-yl)-2,4,6-trifluorobenzamide | 3.95 g, 74% | NC1=CC=CC(=N1)NC(C1=C(C=C(C=C1F)F)F)=O | C12H8F3N3O
